US07446222B2
E(iii) 2-Benzyloxy-5-(trifluoromethyl)benzeneboronic acid
A solution of 4-benzyloxy-3-iodobenzotrifluoride (15.07 g, 39.85 mmol) in tetrahydrofuran (200 ml) was cooled to −40° C. with stirring under nitrogen. 2M isopropylmagnesium chloride in diethyl ether (39.85 ml, 79.7 mmol) was added dropwise and the mixture stirred at −40° C. for 40 minutes, then cooled to −75° C. Trimethyl borate (8.3 g, 9.2 ml, 79.7 mmol) was added at −75° C. over 10 minutes and the reaction stirred and allowed to reach 0° C. over 1 h. 1M hydrochloric acid (200 ml) was added and the mixture stirred vigorously for 1 h.

reactant | 4-benzyloxy-3-iodobenzotrifluoride | 39.85 mmol, 15.07 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)I | C14H10F3IO
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | diethyl ether | 79.7 mmol, 39.85 ml | C(C)OCC | C4H10O
reactant | Trimethyl borate | 79.7 mmol, 9.2 ml, 8.3 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1M, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Benzyloxy-5-(trifluoromethyl)benzeneboronic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C14H12BF3O3
